US04931482
To 1,1,1,4,4,4-hexafluoro-2,3-dichloro-2-butene (23.5 g, 0.1 mole) in 50 ml tetrahydrofuran were added sodium hydroxide (8.5 g) and as catalyst 5% by weight palladium on carbon (3 g). This mixture was hydrogenated with hydrogen at temperatures of 20 to 40° C. under pressures of 20 to 40 bar. The reaction mixture was worked up as in Example B, producing 8.0 g (75% of theory) of 1,1,1,4,4,4-hexafluorobutane.

reactant | 1,1,1,4,4,4-hexafluoro-2,3-dichloro-2-butene | 0.1 mole, 23.5 g | FC(C(=C(C(F)(F)F)Cl)Cl)(F)F | C4Cl2F6
reactant | sodium hydroxide | 8.5 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | 1,1,1,4,4,4-hexafluorobutane | 8.0 g, 75% | FC(CCC(F)(F)F)(F)F | C4H4F6
